US04178379
2,4,6,7-Tetrahydro-3-phenyl-7 -(phenylmethylene)-2-propylpyrano[4,3-c]pyrazole
A mixture of tetrahydro-3,5-bis-(phenylmethylene)-4H-pyran-4-one (3.6 g, 13 mmole) and propylhydrazine (1.1 g, 14 mmole) in methanol (250 ml) is heated at reflux temperature for 3-4 hours. MeOH is then removed in vacuo. The residue is dissolved in CHCl3 and washed with dilute HCl and water, then dried (anhydrous MgSO4) and concentrated in vacuo to give a yellow oil. When this crude oil is triturated with a small amount of acetonitrile the major product of this reaction precipitates out. The filtrate is concentrated and the residue is applied to a dry-packed Al2O3 (Activity I, neutral) column. The fractions eluted with ether are combined and recrystallized first from ether/hexane, then from cyclohexane until a constant m.p. (126.5°-128.5° C.) is reached, giving the product in crystalline form (99% pure).

reactant | tetrahydro-3,5-bis-(phenylmethylene)-4H-pyran-4-one | 13 mmole, 3.6 g | C1(=CC=CC=C1)C=C1COCC(C1=O)=CC1=CC=CC=C1 | C19H16O2
reactant | propylhydrazine | 14 mmole, 1.1 g | C(CC)NN | C3H10N2
solvent | methanol | 250 ml | CO | CH4O
product | 2,4,6,7-Tetrahydro-3-phenyl-7 -(phenylmethylene)-2-propylpyrano[4,3-c]pyrazole | C1(=CC=CC=C1)C1=C2C(=NN1CCC)C(COC2)=CC2=CC=CC=C2 | C22H22N2O
